US05773610
A solution of t-BuOH (0.50 mol, 37.1 g, 47.8 mls) in THF (500 mls) is cooled to 5° C.; then over a 30 minute period n-BuLi (0.56 mol., 350 ml, 1.6M) is added to the solution. The resulting mixture is stirred for 40 minutes at room temperature. Crotyl chloride (0.50 mol., 52.3 g, 47.9 mls) in THF (250 mls) is added to the reaction mixture at room temperature over a 15 minute period. The resulting mixture is heated under reflux for 50 minutes. The reaction mixture is cooled to 0° C. and ice-water (800 mls) is added. The layers are separated and the aqueous layer is extracted with Et2O (3×600 mls). The organic phases are combined, dried over Na2SO4, filtered and concentrated by rotary evaporation to give a red oil. Distillation (55° C., 22 mm) yields t-butyl crotonate: 1H NMR (300 MHz, CDCl3) δ 1.46 (s, 9H), 1.83 (dd, J is 6.9, 1.7 Hz, 3H), 5.74 (dq, J is 15.5, 1.7 Hz, 1H), 6.85 (dq, J is 15.5, 6.9 Hz, 1H).

reactant | t-BuOH | 0.50 mol, 47.8 mls, 37.1 g | CC(C)(C)O | C4H10O
reactant | n-BuLi | 0.56 mol, 1.6M, 350 ml | [Li]CCCC
reactant | Crotyl chloride | 0.50 mol, 47.9 mls, 52.3 g | C(C=CC)Cl | C4H7Cl
reactant | THF | 500 mls | C1CCOC1 | C4H8O
reactant | THF | 250 mls | C1CCOC1 | C4H8O
product | t-butyl crotonate | C(\C=C\C)(=O)OC(C)(C)C | C8H14O2
